US08835420B2
(S)-2,4-Diamino-6-((1-(6-(1-(difluoromethyl)-1H-pyrazol-5-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-1-(6-(1-(Difluoromethyl)-1H-pyrazol-5-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (115 mg, 0.393 mmol), 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (100 mg, 0.593 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.21 mL, 1.2 mmol) were combined in acetonitrile (6 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then concentrated. The residue was taken up in DMF and purified by preparative HPLC (basic mode) eluting with 30-45% ACN in water. The fractions containing the desired compound were combined and extracted with EtOAc (200 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound (97 mg, 58%). 1H NMR (500 MHz, CD3OD) δ ppm 1.41-1.49 (m, 3 H), 3.88 (s, 3 H), 5.91 (q, J=6.67 Hz, 1 H), 6.63 (d, J=2.93 Hz, 1 H), 6.86 (d, J=2.44 Hz, 1 H), 7.49-7.77 (m, 2 H), 7.95 (s, 1 H), 8.19 (d, J=2.93 Hz, 1 H); ESI-MS m/z [M+H]+ calc'd for C19H18F2N10, 425; found 425.

reactant | (S)-1-(6-(1-(Difluoromethyl)-1H-pyrazol-5-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.393 mmol, 115 mg | FC(N1N=CC=C1C=1C=C2C(=NC1[C@H](C)N)C=CN2C)F | C14H15F2N5
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 0.593 mmol, 100 mg | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.2 mmol, 0.21 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (S)-2,4-Diamino-6-((1-(6-(1-(difluoromethyl)-1H-pyrazol-5-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 97 mg, 58% | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C(F)F | C19H18F2N10
